US07105532B2
Cyclopropanecarboxylic acid [1-(1-cyclopropylmethanoyl)-5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]amide
Cyclopropanecarbonyl chloride (186 mg, 1.776 mmol) was added to a stirred solution of 5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-ylamine (200 mg, 0.888 mmol) in anhydrous pyridine (5 mL) and the reaction was heated under reflux for 16 hours. The solvent was removed in vacuo, and the residue chromatographed on silica gel using 10% v/v methanol in dichloromethane as eluent to afford the title compound as a solid.

reactant | Cyclopropanecarbonyl chloride | 1.776 mmol, 186 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-ylamine | 0.888 mmol, 200 mg | CC1=CC=C(C=N1)C=1C=C2C(=CN1)NN=C2N | C12H11N5
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Cyclopropanecarboxylic acid [1-(1-cyclopropylmethanoyl)-5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]amide | C1(CC1)C(=O)N1N=C(C=2C1=CN=C(C2)C=2C=NC(=CC2)C)NC(=O)C2CC2 | C20H19N5O2
